US05104884
2-(1H-1,2,4-triazole-1-yl)-3-methyl-quinoline
A mixture of 1.78 g of 2-chloro-3-methyl-quinoline and 0.69 g of 1,2,4-triazole is melt and allowed to stand at 120° C. for 4 hours. The melt is cooled, then dissolved in 10 ml of ethanol, poured into 20 ml of water and neutralized with 1 ml of concentrated ammonium hydroxide. The precipitated product is filtered. Thus 1.49 g of the desired compound are obtained, yield 71%. Mp.: 80°-81° C.

reactant | 2-chloro-3-methyl-quinoline | 1.78 g | ClC1=NC2=CC=CC=C2C=C1C | C10H8ClN
reactant | 1,2,4-triazole | 0.69 g | N1N=CN=C1 | C2H3N3
reactant | water | 20 ml | O | H2O
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(1H-1,2,4-triazole-1-yl)-3-methyl-quinoline | 1.49 g, yield 71% | N1(N=CN=C1)C1=NC2=CC=CC=C2C=C1C | C12H10N4
